US05098918
4,5-Bis(p-Methoxyphenyl)-1,2,3-thiadiazole (7)
The hydrazone (7.0 g, 20 mmol) derived from desoxyanisoin (Aldrich) and ethylcarbazate was added to 20 ml of SOCl2 ;which had been cooled in an ice bath. The reaction was heated at 60° C. for 1 hour, cooled and then the solvent was removed under vacuum. The crude residue was triturated with ether affording 7.5 g of crude material, m.p. 80°-82° C. This was recrystallized from ether affording 3.59 g (60%) of 7, m.p. 84°-86° C. as red crystals. A simple column filtration through silica afforded white, analytically pure crystals of 7, m.p. 84°-86° C.

reactant | desoxyanisoin | C1(=CC=C(OC)C=C1)C(=O)CC1=CC=C(OC)C=C1 | C16H16O3
reactant | ethylcarbazate | C(C)OC(NN)=O | C3H8N2O2
reactant | SOCl2 | 20 ml | O=S(Cl)Cl | Cl2OS
product | 4,5-Bis(p-Methoxyphenyl)-1,2,3-thiadiazole | COC1=CC=C(C=C1)C=1N=NSC1C1=CC=C(C=C1)OC | C16H14N2O2S
